US07964618B2
the tert-butyl (3R)-3-(ethoxycarbonylmethoxy)pyrrolidine-1-carboxylate used as starting material was prepared as described below
A solution of sodium bis(trimethylsilyl)amide in THF (58.7 mL, 58.75 mmol) was added dropwise to a stirred solution of (R)-tert-butyl 3-hydroxypyrrolidine-1-carboxylate (10 g, 53.41 mmol) in DMF (100 mL) over a period of 10 minutes under nitrogen. The resulting solution was stirred at ambient temperature for 10 minutes. Ethyl bromoacetate (8.92 g, 53.41 mmol) was added dropwise over 10 minutes (exotherm. Temperature kept below 30° C. using a cold water bath) and the reaction was stirred at ambient temperature for 20 hours.

reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | THF | 58.75 mmol, 58.7 mL | C1CCOC1 | C4H8O
reactant | (R)-tert-butyl 3-hydroxypyrrolidine-1-carboxylate | 53.41 mmol, 10 g | O[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | Ethyl bromoacetate | 53.41 mmol, 8.92 g | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | tert-butyl (3R)-3-(ethoxycarbonylmethoxy)pyrrolidine-1-carboxylate | C(C)OC(=O)CO[C@H]1CN(CC1)C(=O)OC(C)(C)C | C13H23NO5
